US06103907
2.00 g of potassium hydroxide was added to a mixture of 3.91 g of diethyl 2-(4-benzyloxybenzyl)-2-(3-phenylpropyl)malonate obtained in Reference example 12(a), 30 ml of 2-methoxyethanol and 3 ml of water, and the resulting mixture was stirred on an oil bath of 130° C. for 1.5 hours. After the reaction, the reaction mixture was concentrated, water and ethyl acetate were added to the concentrated mixture, and then 6N hydrochloric acid was added thereto to make it acidic. Then, the ethyl acetate layer was separated, washed with an aqueous NaCl solution and dried over anhydrous magnesium sulfate, followed by concentration. The residual syrup was dissolved in 20 ml of xylene, and the mixture was stirred for one hour and concentrated. The syrup-like 2-(4-benzyloxybenzyl)-5-phenylvaleric acid thus obtained was dissolved in 40 ml of ethanol, and 1 ml of conc. sulfuric acid was added thereto. The resulting mixture was stirred at 80° C. for 3 hours and allowed to stand at room temperature for 16 hours. The reaction mixture was concentrated, and the residue was dissolved in ethyl acetate and water, followed by separation of the ethyl acetate layer. The extract thus obtained was dried over anhydrous magnesium sulfate and concentrated to obtain 3.32 g of the desired compound as a syrup.

reactant | potassium hydroxide | 2.00 g | [OH-].[K+]
reactant | diethyl 2-(4-benzyloxybenzyl)-2-(3-phenylpropyl)malonate | 3.91 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)CCCC2=CC=CC=C2)C=C1 | C30H34O5
reactant | 2-methoxyethanol | 30 ml | COCCO | C3H8O2
solvent | water | 3 ml | O | H2O
product | 2-(4-benzyloxybenzyl)-5-phenylvaleric acid | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)O)CCCC2=CC=CC=C2)C=C1 | C25H26O3
